US07994203B2
To a stirred solution of 3-ethyl-5-hydroxy-1H-pyrazole-4-carboxylic acid ethyl ester (1.5 g, 8.14 mmol) in DMF (10 ml) is added K2CO3 (1.15 g, 8.14 mmol). The mixture is heated to 50° C. and treated with a solution of 2-bromo-1-(2,4-dichloro-phenyl)-propan-1-one (Intermediate AA) (2.53 g, 8.96 mmol) in DMF (10 ml). Stirring continues at 50° C. for 1 hour and after cooling to RT, the reaction mixture is poured into water (300 ml, pre-cooled to 10-15° C.) which is subsequently allowed to reach ambient temperature over 3 h (with stirring). The resulting suspension is filtered, washed with water and the solid dried in vacuo overnight. The resultant crude product is triturated in diethyl ether (approx. 15 ml) for 20 mins. then dried in vacuo to yield 5-[2-(2,4-dichloro-phenyl)-1-methyl-2-oxo-ethoxy]-3-ethyl-1H-pyrazole-4-carboxylic acid ethyl ester: yield: MS: m/z 385.13 [M+H]+

reactant | 3-ethyl-5-hydroxy-1H-pyrazole-4-carboxylic acid ethyl ester | 8.14 mmol, 1.5 g | C(C)OC(=O)C=1C(=NNC1O)CC | C8H12N2O3
reactant | K2CO3 | 8.14 mmol, 1.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-1-(2,4-dichloro-phenyl)-propan-1-one | 8.96 mmol, 2.53 g | BrC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C | C9H7BrCl2O
reactant | water | 300 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[2-(2,4-dichloro-phenyl)-1-methyl-2-oxo-ethoxy]-3-ethyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1OC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C)CC | C17H18Cl2N2O4
